US09403831B2
6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (28 mg, 0.049 mmol) was dissolved in CH2Cl2 (5 ml), and then 4 N HCl dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was purified with ether to give 2-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)ethanolhydrochloride (21.5 mg, 83%).

reactant | 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.049 mmol, 28 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)CCOC2OCCCC2 | C28H34N12O2
reactant | HCl dioxane | 4 N, 1 ml | O1CCOCC1.Cl
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)ethanolhydrochloride | 21.5 mg, 83% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)CCO | InChI=1S/C23H26N12O.ClH/c1-32-15-18(11-27-32)20-12-24-21-22(28-20)35(31-29-21)14-16-3-2-5-33(13-16)23-25-9-17(10-26-23)19-4-6-34(30-19)7-8-36;/h4,6,9-12,15-16,36H,2-3,5,7-8,13-14H2,1H3;1H
